US08026366B2
A mixture of 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol (245 mg, 1.0 mmol), cesium carbonate (1.3 g, 4.0 mmol), and DMF (20 mL) was stirred at 75° C. for 10 minutes. 4-(Bromoethyl)-3,5-dimethyl-1H-pyrazole (223 mg, 1.1 mmol) was added in portions over a period of 30 minutes. The reaction mixture was stirred for 20 minutes and then the heat source was removed. The reaction mixture was diluted with water (250 mL), stirred overnight, and then filtered. The isolated solid was rinsed with water and then dried to provide a tan powder. This material was dissolved in dichloromethane and then purified by HPFC eluting with a gradient of 0-30% CMA in chloroform 700 mL and then with 30% CMA in chloroform over 200 mL. The resulting solid was recrystallized from 50:1 acetonitrile:methanol (40 mL) to provide 205 mg of 7-[2-(3,5-dimethyl-1H-pyrazol-4-yl)ethoxy]-2-ethylthiazolo[4,5-c]quinolin-4-amine as an off white solid, mp 195.0-197.0° C. MS (APCI) m/z 368 (M+H)+; Anal. calcd for C19H21N5OS: C, 62.10; H, 5.764; N, 19.06. Found C, 61.95; H, 5.53; N, 19.09.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 1.0 mmol, 245 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | cesium carbonate | 4.0 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 4-(Bromoethyl)-3,5-dimethyl-1H-pyrazole | 1.1 mmol, 223 mg | BrCCC=1C(=NNC1C)C | C7H11BrN2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-[2-(3,5-dimethyl-1H-pyrazol-4-yl)ethoxy]-2-ethylthiazolo[4,5-c]quinolin-4-amine | 205 mg | CC1=NNC(=C1CCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(S3)CC)C | C19H21N5OS
